US06984653B2
(ii) Production of N,N-dimethyl-3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propanamide
A solution (2M; 0.557 ml) of N,N-dimethylamine in THF and diethyl cyanophosphate (67.6 μl) were added to a solution of 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionic acid (200 mg) in DMF (3 ml) at 0° C., and the mixture was stirred for 15 min. Triethylamine (77.6 μl) was added to the mixture at 0° C., and the mixture was stirred at room temperature for 16 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was successively washed with water and saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; dichloromethane to dichloromethane:methanol=20:1) and recrystallized from diethyl ether-ethyl acetate-hexane to give the titled compound (146 mg) as a colorless crystal powder.

reactant | N,N-dimethylamine | 2M, 0.557 ml | CNC | C2H7N
reactant | 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionic acid | 200 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCC(=O)O)(F)F | C29H28F3N3O4
reactant | Triethylamine | 77.6 μl | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl cyanophosphate | 67.6 μl | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N,N-dimethyl-3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propanamide | 146 mg | CN(C(CCC=1N(C=CN1)CCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F)=O)C | C31H33F3N4O3
